US08455488B2
Synthesis of 4-benzyl-1-(2-((S)-1-(((S)-1,1-diethoxypropan-2-yl)(quinolin-8-ylmethyl)amino)-1,4-dioxo-4-(tritylamino)butan-2-ylamino)-2-oxoethyl)-1-methylsemicarbazide (Compound II-53)
According to the procedure described in the synthesis method of Compound II-15, 2-(2-(benzylcarbamoyl)-1-methylhydrazinyl)acetic acid (Compound VI-3) 55 mg (0.23 mmol) was coupled with (S)-2-amino-N1—((S)-1,1-diethoxypropan-2-yl)-N1-(quinolin-8-ylmethyl)-N4-tritylsuccinamide (Compound IV-20) 100 mg (0.16 mmol) to obtain the title compound.

reactant | 2-(2-(benzylcarbamoyl)-1-methylhydrazinyl)acetic acid | 0.23 mmol, 55 mg | C(C1=CC=CC=C1)NC(=O)NN(C)CC(=O)O | C11H15N3O3
reactant | (S)-2-amino-N1—((S)-1,1-diethoxypropan-2-yl)-N1-(quinolin-8-ylmethyl)-N4-tritylsuccinamide | 0.16 mmol, 100 mg | N[C@H](C(=O)N(CC=1C=CC=C2C=CC=NC12)[C@H](C(OCC)OCC)C)CC(=O)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C40H44N4O4
product | 4-benzyl-1-(2-((S)-1-(((S)-1,1-diethoxypropan-2-yl)(quinolin-8-ylmethyl)amino)-1,4-dioxo-4-(tritylamino)butan-2-ylamino)-2-oxoethyl)-1-methylsemicarbazide | C(C1=CC=CC=C1)NC(NN(C)CC(=O)N[C@H](C(=O)N(CC=1C=CC=C2C=CC=NC12)[C@H](C(OCC)OCC)C)CC(NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)=O | C51H57N7O6
